US08304403B2
To an oven-dried round-bottomed flask cooled at −78° C., was added 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene (7.20 g, 24.82 mmol) in anhydrous ether (300 mL) under Argon, and the mixture was stirred at −78° C. for 10 min. n-BuLi (2.5 M in hexanes, 11.5 mL, 28.75 mmol, 1.16 eq) was added dropwise at −78° C. The reaction mixture was stirred at −78° C. for 45 min. An Et2O solution (20 mL) of 4-fluorobenzonitrile (3.06 g, 25.29 mmol, 1.02 eq) was added dropwise. The resulting reddish solution was stirred at −78° C. for 2 h. The reaction mixture was quenched by adding 1N HCl (200 mL), and the dry ice-acetone bath was removed. The resulting slurry was stirred at room temperature for 1 h followed by the addition of Et2O (100 mL). The organic layer was separated, and then washed with sat'd NaHCO3, H2O, brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by flash chromatography (EtOAc/hexanes ═0 to 30%) to give (3-fluoro-5-(1,1,2,2-tetrafluoro ethoxy)phenyl)(4-fluorophenyl)methanone as slightly tan oil (7.20 g, yield: 86.9%). 1H NMR (400 MHz, CDCl3) δ ppm 7.85-7.80 (m, 2H), 7.40-7.37 (m, 2H), 7.20-7.14 (m, 3H), 5.92 (tt, J=52, 2.8 Hz, 1H); LC-MS (ESI) 335.31 (M+H), retention time=3.81 min (10-90% MeOH in H2O with 0.1% TFA in a 4-min run).

reactant | 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene | 24.82 mmol, 7.20 g | BrC1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C8H4BrF5O
reactant | n-BuLi | 28.75 mmol, 2.5 M, 11.5 mL, 1.16 eq | [Li]CCCC
reactant | 4-fluorobenzonitrile | 25.29 mmol, 3.06 g, 1.02 eq | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ether | 300 mL | CCOCC | C4H10O
reactant | Et2O | 20 mL | CCOCC | C4H10O
product | (3-fluoro-5-(1,1,2,2-tetrafluoro ethoxy)phenyl)(4-fluorophenyl)methanone | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)C(=O)C1=CC=C(C=C1)F | C15H8F6O2
